US04049812
To a solution of 12.5 g. of ethyl [2-(2-pyridinecarbonyl)phenyl]azo-aminoacetate in 400 ml. of anhydrous benzene are added 11.4 g. of potassium carbonate and 8.0 ml. of chloroacetyl chloride. The resulting mixture is refluxed with stirring for 30 minutes, and then cooled. The resulting precipitate is collected by filtration, and partitioned between saturated aqueous sodium hydrogen carbonate solution and chloroform. The chloroform layer is separated, washed with water, dried over sodium sulfate, followed by evaporation of the solvent to give ethyl [2-(2-pyridinecarbonyl)phenyl]azo-(2-chloroacetamido)-acetate as crystals. Recrystallization from acetone-n-hexane gives yellow needles, melting at 160 to 162° C.

reactant | ethyl [2-(2-pyridinecarbonyl)phenyl]azo-aminoacetate | N1=C(C=CC=C1)C(=O)C1=C(C=CC=C1)N=NC(C(=O)OCC)N | C16H16N4O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | ethyl [2-(2-pyridinecarbonyl)phenyl]azo-(2-chloroacetamido)-acetate | N1=C(C=CC=C1)C(=O)C1=C(C=CC=C1)N=NC(C(=O)OCC)NC(CCl)=O | C18H17ClN4O4
